US04448962
A mixture of 1-ethyl-6-chloro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid 1.7 g (0.005 mole), anhydrous trifluoroacetic acid 4.2 g (0.02 mole) and dichloromethane 4 ml was stirred at room temperature for 3 hours. The reaction mixture was evaporated under vacuum and the residue was recrystallized from a mixed solvent of DMF and ethanol to obtain 1.8 g (86%) of 1-ethyl-6-chloro-7-(4-trifluoroacetyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid. Colorless plates. Melting point: 297°-298° C. (decomposition).

reactant | 1-ethyl-6-chloro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.005 mole, 1.7 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)Cl)=O)C(=O)O | C16H18ClN3O3
reactant | trifluoroacetic acid | 0.02 mole, 4.2 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-ethyl-6-chloro-7-(4-trifluoroacetyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 1.8 g, 86% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(C(F)(F)F)=O)Cl)=O)C(=O)O | C18H17ClF3N3O4
